US04307016
(i) Production of β-methoxycarbonylethyl isocyanate
In 600 ml of dry toluene was dissolved 26.4 g of monomethyl succinate, followed by the addition of 55 g of diphenylphosphorylazide and 22 g of triethylamine. The mixture was allowed to stand at room temperature with stirring for 3 hours, after which it was washed with water and dried. The solvent was concentrated to about one-third of its original volume and, finally, the mixture was refluxed for 2 hours. After the solvent was completely evaporated off, the residue was distilled under reduced pressure. By the above procedure there was obtained 13.6 g of the above-indicated compound. b.p.8 : 64°-66° C.

reactant | monomethyl succinate | 26.4 g | C(CCC(=O)[O-])(=O)OC
reactant | diphenylphosphorylazide | 55 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 22 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 600 ml | C1(=CC=CC=C1)C | C7H8
product | β-methoxycarbonylethyl isocyanate | 13.6 g | COC(=O)CCN=C=O | C5H7NO3
